US06872720B2
To toluene-4-sulfonic acid 3,7-bis(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester (200 mg, 0.407 mmol) and (2-methyl-2H-[1,2,4]triazol-3-yl)methanol (57.5 mg, 0.0509 mmol; prepared as described in EP-A-170073) in DMF (5 ml) was added sodium hydride (23.7 mg of a 60% dispersion in mineral oil; 0.593 mmol) and the mixture was stirred at room temperature for 30 min. Water (50 ml) was added, then the solvent was removed in vacuo, and the residue was purified by flash chromatography on silica gel eluting with 0 to 100% ethyl acetate in dichloromethane. 3,7-Bis(2-fluorophenyl)-4-methyl-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine was isolated as a gum, which solidified upon trituration under isohexane (75 mg). 1H NMR (400 MHz, CDCl3) δ 2.52 (3H, s), 3.73 (3H, s), 5.44 (1H, d, J=13 Hz), 5.49 (1H, d, J=13 Hz), 7.18-7.31 (3H, m), 7.36-7.46 (3H, m), 7.63 (1H, m), 7.78 (1H, m), 7.82 (1H, s); MS (ES+) m/e 434 [MH]+. Anal. Found C, 61.03; H, 4.08; N, 21.95%. C22H17F2N7O.0.1 C6H14 requires C, 61.41; H, 4.20; N, 22.18%.

reactant | toluene-4-sulfonic acid 3,7-bis(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester | 0.407 mmol, 200 mg | FC1=C(C=CC=C1)C=1C(=NN2C(=NN=C(C21)C)C2=C(C=CC=C2)F)OS(=O)(=O)C2=CC=C(C=C2)C | C25H18F2N4O3S
reactant | (2-methyl-2H-[1,2,4]triazol-3-yl)methanol | 0.0509 mmol, 57.5 mg | CN1N=CN=C1CO | C4H7N3O
reactant | sodium hydride | [H-].[Na+]
reactant | Water | 50 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,7-Bis(2-fluorophenyl)-4-methyl-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine | FC1=C(C=CC=C1)C=1C(=NN2C(=NN=C(C21)C)C2=C(C=CC=C2)F)OCC=2N(N=CN2)C | C22H17F2N7O
